US07897607B2
(6-Mesitylpyridin-2-yl)acetonitrile
n-Butyllithium (2.5M, 19.1 mL, 47.8 mmol) was added to tetrahydrofuran (135 mL) and the solution was cooled to −78° C. Acetonitrile (2.5 mL, 47.8 mmol) was then added dropwise and the reaction stirred for 45 min. 2-Bromo-6-mesitylpyridine (2.00 g, 7.24 mmol) was added as a solution in 10 mL of tetrahydrofuran. The reaction continued to stir at −78° C. for 0.5 hr and was then warmed to room temperature for 1 h. The reaction was quenched with water and extracted with ethyl acetate, dried, and concentrated. Flash chromatography (20% ethyl acetate/hexanes) gave 0.70 g (41% yield) of the desired product as an orange oil.

reactant | n-Butyllithium | 47.8 mmol, 2.5M, 19.1 mL | C(CCC)[Li]
reactant | Acetonitrile | 47.8 mmol, 2.5 mL | C(C)#N | C2H3N
reactant | 2-Bromo-6-mesitylpyridine | 7.24 mmol, 2.00 g | BrC1=NC(=CC=C1)C1=C(C=C(C=C1C)C)C | C14H14BrN
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 135 mL | O1CCCC1 | C4H8O
product | (6-Mesitylpyridin-2-yl)acetonitrile | 0.70 g, 41% yield | C1(=C(C(=CC(=C1)C)C)C1=CC=CC(=N1)CC#N)C | C16H16N2
